US08871756B2
cis-4-amino-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidin-3-ol
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (740 mg, 2.0 mmol, prepared in analogy to the one in Example 2-1) and cis-4-aminopyrrolidin-3-ol (600 mg, 6.0 mmol) in n-butanol (0.2 mL) was heated at 180° C. for 3 days. After being cooled to room temperature, the mixture was purified by preparative HPLC to afford the product as a solid. MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CD3OD) δ ppm 8.12 (dd, J=7.83, 1.26 Hz, 1 H), 8.02 (s, 1 H), 7.87 (d, J=7.07 Hz, 1 H), 7.82-7.71 (m, 2 H), 7.67-7.57 (m, 2 H), 5.93 (s, 1 H), 5.33 (s, 2 H), 4.66 (d, J=2.02 Hz, 1 H), 4.56 (brs, 2 H), 4.28-4.17 (m, 2 H), 4.13-3.99 (m, 2 H), 3.91 (s, 1 H), 3.76 (brs, 2 H), 3.37 (s, 3 H), 2.50 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | cis-4-aminopyrrolidin-3-ol | 6.0 mmol, 600 mg | N[C@@H]1[C@@H](CNC1)O | C4H10N2O
solvent | n-butanol | 0.2 mL | C(CCC)O | C4H10O
product | cis-4-amino-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidin-3-ol | N[C@@H]1[C@@H](CN(C1)C1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)O | C23H26N4O3S
